US05451463
Preparation of Acridine-ON™ CPG (Compound 17/Structure X).
Dissolve 1-O-DMT-2-(N-acridine-4-aminobutyryl)-1,3-propanediol (7.2 g, 10.4 mmol) (7) in 30 ml anhydrous pyridine with stirring. Stir at room temperature. Add p-dimethylamino-pyridine (0.584 g, 4.8 mmol) and succinic anhydride (0.863 g, 8.63 mmol). Stir reaction mixture at room temperature for 24 hours. Analyze by TLC to check whether reaction is completed, using 1:1 MeOH:CH2Cl2 with 4 drops of NH4OH added to develop; visualize with H2SO4 (Rf product=0.5). Remove solvent by rotary evaporation using high vacuum. Partition between 250 ml EtOAc and 100 ml H2O. Wash 3×130 ml brine. Combine aqueous layers and extract with 300 ml EtOAc. Dry the organics over anhydrous Na2SO4. Remove solvent by rotary evaporation in vacuo. Co-evaporate 2×50 ml anhydrous pyridine. Immediately add 41 ml anhydrous dioxane. Swirl flask to achieve complete solution. Add 7.5 ml anhydrous pyridine and p-nitrophenol (2.15 g, 15.5 mmol) to flask with magnetic stirring. Cool reaction flask to 25° C. Add dicyclohexylcarbodiimide (2.92 g, 14.3 mmol, MW 204.35) with stirring, and stir at room temperature for 4 hours. Add 1.6 ml triethylamine and stir 10 minutes. Filter reaction mixture through a sintered glass funnel directly into 18 g long chain alkylamine CPG. Agitate the CPG mixture for 24 hours. Collect the derivatized CPG by filtration into a clean 600 ml sintered glass funnel. Wash with 3×500 ml DMF, 3×500 ml MeOH, and 3×500 ml ether. Transfer the CPG to a clean, dry 500 ml RB flask and dry on the rotovap, using aspirator, then pump at hard vacuum for an hour to remove all solvents. Mix together 12.7 ml acetic anhydride, 51 ml anhydrous pyridine, and 236 mg DMAP. Cap the CPG by adding this solution to the dry CPG and swirl on orbital shaker for 2 hours. Collect the capped CPG by filtration in a clean 500 ml sintered glass funnel. Wash with 1×1000 ml pyridine, 3×500 ml DMF, 2×500 ml water, 3×500 ml MeOH, and 3×500 ml ether. Dry in vacuo. Yield: 18 g.

reactant | succinic anhydride | 8.63 mmol, 0.863 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | p-nitrophenol | 15.5 mmol, 2.15 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dicyclohexylcarbodiimide | 14.3 mmol, 2.92 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
catalyst | p-dimethylamino-pyridine | 4.8 mmol, 0.584 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | NH4OH | 4 drops | [NH4+].[OH-]
solvent | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | Acridine-ON | C1(CC=CC2=NC3=CC=CC=C3C=C12)=O | C13H9NO
